US06809199B2
A 250 mL round bottom flask was charged with 2-(2-chloro-4-fluorophenyl)-3-methyl-5-nitropyridine (4 g) and methanol (50 mL). To the flask was added Raney nickel/methanol slurry (approx 4 g). The flask was evacuated and charged with hydrogen several times. The mixture was stirred under a balloon of hydrogen for 2.5 h. The flask was purged with nitrogen. The catalyst was filtered off and the filtrate was concentrated under reduced pressure giving 6-(2-chloro-4-fluorophenyl)-5-methylpyridin-3-amine as an off white solid. Mass spectrum (EST) 237 (M+1).

reactant | 2-(2-chloro-4-fluorophenyl)-3-methyl-5-nitropyridine | 4 g | ClC1=C(C=CC(=C1)F)C1=NC=C(C=C1C)[N+](=O)[O-] | C12H8ClFN2O2
catalyst | Raney nickel methanol | [Ni].CO
solvent | methanol | 50 mL | CO | CH4O
product | 6-(2-chloro-4-fluorophenyl)-5-methylpyridin-3-amine | ClC1=C(C=CC(=C1)F)C1=C(C=C(C=N1)N)C | C12H10ClFN2
